US04375508
Preparation of 1-(4-Bromo-2-butyn-1-yl)-5, 6-dichloro-3-ethyl-2-methylbenzimidazolium bromide.
5,6-Dichloro-1-ethyl-2-methylbenzimidazole (11.5 g., 0.05 moles) and 1,4-dibromo-2-butyne (31 g., 0.15 moles) were mixed together and stirred at room temperature overnight. The reaction mixture was treated with ether, the solid was collected by filtration, washed with ether and dried. It was recrystallized from acetonitrile containing 5% water (400 ml). The product was recovered in two crops. Yield 20.2 g (92%), mp. 185°-189° C.

reactant | 5,6-Dichloro-1-ethyl-2-methylbenzimidazole | 0.05 moles, 11.5 g | ClC1=CC2=C(N(C(=N2)C)CC)C=C1Cl | C10H10Cl2N2
reactant | 1,4-dibromo-2-butyne | 0.15 moles, 31 g | BrCC#CCBr | C4H4Br2
solvent | ether | CCOCC | C4H10O
product | 1-(4-Bromo-2-butyn-1-yl)-5, 6-dichloro-3-ethyl-2-methylbenzimidazolium bromide | [Br-].BrCC#CC[N+]1=C(N(C2=C1C=C(C(=C2)Cl)Cl)CC)C | InChI=1S/C14H14BrCl2N2.BrH/c1-3-18-10(2)19(7-5-4-6-15)14-9-12(17)11(16)8-13(14)18;/h8-9H,3,6-7H2,1-2H3;1H/q+1;/p-1
